US04145431
To a solution of 7 g of 2-nitro-5-chloroaniline in 200 ml of absolute ethanol there is added 4.2 of allyl mercaptan and 2.5 g of Na-methoxide. Then the mixture is refluxed for three hours, the solvent is evaporated and the residue is chromatographed on neutral alumina (Activity IV). Elution with ether-petroleum ether yields 4.6 g of 2-nitro-5-(2-propenylthio)aniline.

reactant | 2-nitro-5-chloroaniline | 7 g | [N+](=O)([O-])C1=C(N)C=C(C=C1)Cl | C6H5ClN2O2
reactant | allyl mercaptan | C(C=C)S | C3H6S
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-nitro-5-(2-propenylthio)aniline | 4.6 g | [N+](=O)([O-])C1=C(N)C=C(C=C1)SCC=C | C9H10N2O2S
